US08865725B2
Palladium(II)acetate (4.2 mg, 0.019 mmol) was added to a stirred suspension of 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (150 mg, 0.62 mmol), 4-chloro-2-methoxy-pyrimidine (107.9 mg, 0.75 mmol), Cs2CO3 (283.6 mg, 0.87 mmol) and 2-dicyclohexylphosphino-2′,4′,6′-triiso-propyl-1,1′-biphenyl (26.7 mg, 0.056 mmol) in 1,4-dioxane (2 mL) under nitrogen and in a sealed tube. The mixture was stirred at 100° C. for 3 days and at 140° C. for 15 minutes under microwave irradiation. The solvent was evaporated in vacuo and the crude product was purified by flash column chromatography (silica; AcOEt in DCM with a gradient of 0/100 to 100/0). The desired fractions were collected and the solvents evaporated in vacuo. The product was triturated with diethyl ether to yield 6-(2-methoxy-pyrimidin-4-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one (43 mg, 20% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 4.09 (s, 3H), 5.18 (d, J=0.9 Hz, 2H), 6.77 (dd, J=8.2, 0.6 Hz, 1H), 6.95-7.06 (m, 3H), 7.27-7.36 (m, 2H), 7.85 (d, J=0.7 Hz, 1H), 7.91 (d, J=5.5 Hz, 1H), 8.24 (d, J=8.1 Hz, 1H), 8.65 (d, J=5.5 Hz, 1H).

reactant | 2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 0.62 mmol, 150 mg | O(C1=CC=CC=C1)CC=1N=C2N(C(NC=C2)=O)C1 | C13H11N3O2
reactant | 4-chloro-2-methoxy-pyrimidine | 0.75 mmol, 107.9 mg | ClC1=NC(=NC=C1)OC | C5H5ClN2O
reactant | Cs2CO3 | 0.87 mmol, 283.6 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triiso-propyl-1,1′-biphenyl | 0.056 mmol, 26.7 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Palladium(II)acetate | 0.019 mmol, 4.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-(2-methoxy-pyrimidin-4-yl)-2-phenoxymethyl-6H-imidazo[1,2-c]pyrimidin-5-one | 43 mg, 20% yield | COC1=NC=CC(=N1)N1C(N2C(C=C1)=NC(=C2)COC2=CC=CC=C2)=O | C18H15N5O3
